US08283353B2
4′-[(4-{trans-4-[4-(1,3-dioxan-2-yl)-2-hydroxybutoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide (1.5 g) was dissolved in tetrahydrofuran (15 mL), 2-(1,3-dioxan-2-yl)ethylmagnesium bromide (15 mL, 0.5M tetrahydrofuran solution) was added dropwise, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was dissolved in tetrahydrofuran (5 mL) and methanol (10 mL), and sodium tetrahydroborate (0.16 g) was added at 0° C. The reaction mixture was stirred at 0° C. for 2 hr and then at room temperature for 18 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, the solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.71 g, 44%).

reactant | 2-[(trans-4-{6-[(2′-Cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide | 1.5 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)N(C)OC)=O | C32H36N6O4
reactant | 2-(1,3-dioxan-2-yl)ethylmagnesium bromide | 0.5M, 15 mL | O1C(OCCC1)CC[Mg]Br
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4′-[(4-{trans-4-[4-(1,3-dioxan-2-yl)-2-hydroxybutoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.71 g, 44% | O1C(OCCC1)CCC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)O | C36H43N5O5
